US07214673B2
(S)-2-(2-(3-Fluoro-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(2-(3-fluoro-phenyl)-ethyl)-piperazine (1.96 g, 5.04 mmol), ammonium formate (1.59 g, 25.18 mmol), 5% Pd/C (243.3 mg), and ethanol (50 mL). Stir and heat the mixture at reflux. After 4 hours 30 minutes, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and purify it on silica gel using dichloromethane/2N ammonia in methanol (80:20) to give the title compound as a white solid: mp 95–99° C.; mass spectrum (ion spray): m/z=209.3 (M+1); Analysis for C12H17FN2: calcd: C, 69.20; H, 8.23; N, 13.45; found: C, 69.13; H, 8.40; N, 13.28.

reactant | (S)-1,4-dibenzyl-2-(2-(3-fluoro-phenyl)-ethyl)-piperazine | 5.04 mmol, 1.96 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC(=CC=C1)F | C26H29FN2
reactant | ammonium formate | 25.18 mmol, 1.59 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 243.3 mg | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (S)-2-(2-(3-Fluoro-phenyl)-ethyl)-piperazine | FC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C12H17FN2
